US08754209B2
To a stirred solution of ethyl 6-(3-aminophenyl)-1H-indazole-3-carboxylate (10 mg) in pyridine (1 Ml), was added 3-trifluoromethylbenzenesulfonyl chloride (6.3 μl) at room temperature. After 3 h, pyridine was removed by evaporation. Ethyl acetate and water were added and the aqueous layer was extracted with ethyl acetate three times. The combined organic layer was dried over magnesium sulfate and concentrated under reduced pressure. The residue was triturated in ethyl acetate/hexane to give ethyl 6-(3-(3-(trifluoromethyl)phenylsulfonamido)phenyl)-1H-indazole-3-carboxylate (8.6 mg).

reactant | ethyl 6-(3-aminophenyl)-1H-indazole-3-carboxylate | 10 mg | NC=1C=C(C=CC1)C1=CC=C2C(=NNC2=C1)C(=O)OCC | C16H15N3O2
reactant | 3-trifluoromethylbenzenesulfonyl chloride | 6.3 μl | FC(C=1C=C(C=CC1)S(=O)(=O)Cl)(F)F | C7H4ClF3O2S
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | ethyl 6-(3-(3-(trifluoromethyl)phenylsulfonamido)phenyl)-1H-indazole-3-carboxylate | 8.6 mg | FC(C=1C=C(C=CC1)S(=O)(=O)NC=1C=C(C=CC1)C1=CC=C2C(=NNC2=C1)C(=O)OCC)(F)F | C23H18F3N3O4S
